US06489344B1
To a solution of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-ylethylamine (20 mg, 0.04 mmol) in DMF (1 ml), 2-methoxy-3-nitro-6-chloro-pyridine (8.3 mg, 0.04 mmol) and diisopropylethyl amine (31 μl, 0.18 mmol) were added. The reaction mixture was stirred for 12 hours at 80° C. The crude mixture was concentrated in vacuo and subjected to column chromatography (10% methanol in methylene chloride) to afford [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine as bright yellow solid.

reactant | 4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-ylethylamine | 0.04 mmol, 20 mg | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)CCN | C15H13Cl2N5
reactant | 2-methoxy-3-nitro-6-chloro-pyridine | 0.04 mmol, 8.3 mg | COC1=NC(=CC=C1[N+](=O)[O-])Cl | C6H5ClN2O3
reactant | diisopropylethyl amine | 0.18 mmol, 31 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
